US05763439
Preparation of 2-tert-butyl-4-hydroxy-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 45)
Into 10 ml of an absolute methanol solution of 1.36 g of 2-tert-butyl-4-hydroxy-5-(4-pyridylimino)pyridazin-3-(2H)-one, 0.11 g of sodium borohydride was added in a few times under cooling with ice. Then, the mixture was stirred at room temperature for two hours. Methanol was distilled off under reduced pressure, and then 100 ml of water and 150 ml of ethyl acetate were added thereto, followed by shaking. The insoluble powder was collected by filtration and washed with deionized water and then with diethyl ether (containing a small amount of ethyl acetate), and then dried under suction to obtain 0.71 g of the desired product (Compound No. 45) having a melting point of from 243° to 245° C.

reactant | 2-tert-butyl-4-hydroxy-5-(4-pyridylimino)pyridazin-3-(2H)-one | 1.36 g | C(C)(C)(C)N1N=CC(C(C1=O)O)=NC1=CC=NC=C1 | C13H16N4O2
reactant | sodium borohydride | 0.11 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-tert-butyl-4-hydroxy-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | 0.71 g | C(C)(C)(C)N1N=CC(=C(C1=O)O)NCC1=CC=NC=C1 | C14H18N4O2
